US06063782
45 ml of phosphorus oxychloride were added to 3.35 g (0.021 mole) of 2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one and the mixture was heated under reflux for 2 hours. After completion of the reaction, the reaction mixture was slowly poured into ice-water and the aqueous mixture was neutralized with an aqueous solution of sodium hydroxide. The precipitated yellow solids were collected by filtration and washed well with water. The solids were dissolved in dichloromethane and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 15:1 mixture of chloroform and methanol as an eluent to give 2.39 g of 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine as a pale yellow powder.

reactant | phosphorus oxychloride | 45 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one | 0.021 mole, 3.35 g | CC1=C(C=2C(C(NNC2)=O)=N1)C | C8H9N3O
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | 2.39 g | ClC=1N=NC=C2C1NC(=C2C)C | C8H8ClN3
